2134-12-27 07:58:00 Physician Resident Progress Note
Chief Complaint: 73 M with MDS and prostate cancer admitted for
   induction of newly diagnosed AML s/p 7+3 day #23 with  hospital course
   complicated by low counts, repeated incidents of tachypnea and fever,
   and perforated appendix found incidentally on CT.
   24 Hour Events:
 BLOOD CULTURED - At [**2134-12-26**] 08:00 AM
 BLOOD CULTURED - At [**2134-12-27**] 03:38 AM
 URINE CULTURE - At [**2134-12-27**] 03:38 AM
 FEVER - 101.4
F - [**2134-12-27**] 05:00 AM
   - Per BMT decided to re-marrow him today.
   - RUQ US was ordered to evaluate his rising LFTs (will occur on
   Monday).
   - BNP was checked and was elevated at 1827.
   - He was transfused 1 unit PRBC per BMT recs to transfuse < 25.  Post
   transfusion Hct was 27.5
   - DIC labs were negative.
   - Surgery stated that he was ok to start clears; no other recs.
   - Patient became tachypneic to the 40's in the middle of the night
   similar to his previous episodes.  Was given morphine and 20 mg IV
   lasix.  He then spiked a fever and was pancultured.
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2134-12-26**] 08:24 PM
   Voriconazole - [**2134-12-27**] 02:05 AM
   Metronidazole - [**2134-12-27**] 04:00 AM
   Meropenem - [**2134-12-27**] 05:46 AM
   Acyclovir - [**2134-12-27**] 05:50 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-12-27**] 02:49 AM
   Morphine Sulfate - [**2134-12-27**] 03:20 AM
   Lorazepam (Ativan) - [**2134-12-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2134-12-27**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 98 (77 - 118) bpm
   BP: 126/67(83) {94/60(71) - 147/85(104)} mmHg
   RR: 28 (17 - 52) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,948 mL
                                                                  1,320 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  1,763 mL
                                                                    568 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,490 mL
                                                                  2,320 mL
   Urine:
                                                                  1,790 mL
                                                                  2,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,458 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: Mild respiratory distress and some accessory
   muscle use(Expansion: Symmetric), (Breath Sounds: Crackles : at bases,
   Wheezes : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, and time, Movement: Not
   assessed, Tone: Not assessed, speech intermittently slurred
   Labs / Radiology
   25 K/uL
   10.2 g/dL
   170 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.0 mEq/L
   32 mg/dL
   107 mEq/L
   142 mEq/L
   29.8 %
   0.5 K/uL
        [image002.jpg]
                             [**2134-12-26**]  05:33 AM
                             [**2134-12-26**]  10:44 PM
                             [**2134-12-27**]  03:32 AM
   WBC
   0.2
   0.5
   Hct
   22.7
   27.5
   29.8
   Plt
   20
   25
   Cr
   0.8
   0.8
   Glucose
   124
   170
   Other labs: PT / PTT / INR:13.2/30.7/1.1, ALT / AST:108/143, Alk Phos /
   T Bili:122/0.6, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:56.0 %,
   Mono:44.0 %, Eos:0.0 %, Fibrinogen:674 mg/dL, LDH:959 IU/L, Ca++:8.4
   mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   The patient is a 73 yo male with MDS and prostate cancer along with
   recently diagnosed AML, admitted for induction of newly diagnosed AML
   now D+23 after 7+3 and transferred to the [**Hospital Unit Name 1**] for continued tachypnea
   and febrile spells.
   # Tachypnea: Patient had recurrent tachypnic and febrile spells on the
   floor with persistently negative cultures.  He had another of these
   last evening and currently O2 requirement stable but slurred speech and
   slight more distressed respirations are concerning for decompensation.
   BNP was elevated and CXR consistent with increased fluid overload
   (cephalization and increased markings) and increased infiltrates at
   bases.
   - Will aim for goal of another 1 L of diuresis today (give 20 mg
   furosemide IV this AM and repeat if necessary for goals)
   - Cont broad abx regimen  vancomycin, meropenem, metronidazole,
   acyclovir, and voriconazole and f/u ID reccs
   - f/u culture data and CIS
   - Supplemental O2 as needed
   # Fevers: Culture negative to date.  On broad spectrum abx as noted
   above.
   - f/u cultures
   -F/U RUQ ultrasound
   # AML: Day 23 7+3 and ANC of 320 today (up from 0 yesterday).  Still
   neutropenic
   - Cont monitor and check daily CBC
s and ANC
   - Transfuse per onc team for Hct <25 and Plt <10
   -neutropenic precautions
   .
   #Phlegmon/Perforated appendix: Patient remains pain free and tolerating
   clears.  Abdominal exam still somewhat distended.
   -Surgery following, will f/u their recommendations; currently very
   reluctant to operate given overall stability and neutropenia
   -Continue broad spectrum antibiotics
   # Smoker: On nicotine patch
   #Prostate Cancer: Not on any active management at home.  No new
   management.
   # PPX: Neutropenic precautions, IS to bedside, bowel regimen
   # ACCESS: Left SC CVL
   # CODE: Full code, confirmed with pt and family
   # CONTACT: HCP wife [**Name (NI) 5457**] cell [**Telephone/Fax (1) 5458**], home phone [**Telephone/Fax (1) 5459**].
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2134-12-27**] 02:48 AM 104 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2134-12-26**] 05:12 AM
   18 Gauge - [**2134-12-26**] 05:14 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-12-27 11:07:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2134-12-26**] 08:00 AM
 BLOOD CULTURED - At [**2134-12-27**] 03:38 AM
 URINE CULTURE - At [**2134-12-27**] 03:38 AM
 FEVER - 101.4
F - [**2134-12-27**] 05:00 AM
   Recurrent tachypnea and fever noted last pm
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Voriconazole - [**2134-12-27**] 02:05 AM
   Metronidazole - [**2134-12-27**] 04:00 AM
   Meropenem - [**2134-12-27**] 05:46 AM
   Acyclovir - [**2134-12-27**] 05:50 AM
   Vancomycin - [**2134-12-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-12-27**] 02:49 AM
   Morphine Sulfate - [**2134-12-27**] 03:20 AM
   Lorazepam (Ativan) - [**2134-12-27**] 04:00 AM
   Pantoprazole (Protonix) - [**2134-12-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2134-12-27**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.3
   HR: 92 (79 - 118) bpm
   BP: 133/90(101) {94/60(71) - 147/90(104)} mmHg
   RR: 38 (17 - 52) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,948 mL
                                                                  1,890 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  1,763 mL
                                                                    836 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,490 mL
                                                                  2,680 mL
   Urine:
                                                                  1,790 mL
                                                                  2,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,458 mL
                                                                   -790 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   25 K/uL
   170 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.0 mEq/L
   32 mg/dL
   107 mEq/L
   142 mEq/L
   29.8 %
   0.5 K/uL
        [image002.jpg]
                             [**2134-12-26**]  05:33 AM
                             [**2134-12-26**]  10:44 PM
                             [**2134-12-27**]  03:32 AM
   WBC
   0.2
   0.5
   Hct
   22.7
   27.5
   29.8
   Plt
   20
   25
   Cr
   0.8
   0.8
   Glucose
   124
   170
   Other labs: PT / PTT / INR:13.2/30.7/1.1, ALT / AST:108/143, Alk Phos /
   T Bili:122/0.6, Differential-Neuts:0.0 %, Band:0.0 %, Lymph:56.0 %,
   Mono:44.0 %, Eos:0.0 %, Fibrinogen:674 mg/dL, LDH:959 IU/L, Ca++:8.4
   mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR--patient with bilateral lower lobe opacities consistent
   with pleural effusions and bialteral interstitial infiltrates all
   consistent with pulmonary edema and infiltrates.
   U/S
GB with sludge and small amounts of fluid
   Assessment and Plan
   73 yo male with h/o leukemia now admitted to ICU with fever/sepsis with
   concerning picture of persistent fever and tachycardia and to date all
   cultures remain negative to date.  Of concern is patient with
   intra-abdominal source with appendix rupture and phlegmon persisting.
   Of concern is the evidence of persistent systemic insult with SIRS
   related to intra-abdominal insult.  This has been a course of
   persistent issue and worsening is suggested but patient has now
   transfer to ICU in the setting of tachypnea and with CXR changes it
   does suggest persistent insult.  What may well be at play is patient
   with start of return of WBC
s in the setting of return of cell lines
   following Rx.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   -Transfuse per hematology recs
   -Maintain neutropenic precautions
   Sepsis-Source primarily is-APPENDICITIS
S/P rupture and with phlegmon
   organization, although alternative sources are clearly possible.
   -vanco/Voriconazole/Meroenem/Acyclovir
   -Will need to consider repeat imaging if worsening
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
patient with likely
   significant pulmonary edema.  This may well be non-hyrdostatic edema in
   the setting of SIRS.  He has had moderate response to Lasix
   intermittently but this may require intermittent use of NIPPV to allow
   complete support and if patient with progression of [**Doctor Last Name 11**]/Non-hydrostatic
   edema patient may well move to acute respiratory failure and intubation
   -Continue to support with I/O even
   -IPPV as needed in setting of pulmonary edema (non-hydorstatic) and
   immune compromised state
   -Family updated
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2134-12-27**] 02:48 AM 104 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2134-12-26**] 05:12 AM
   18 Gauge - [**2134-12-26**] 05:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2134-12-29 07:25:00 Physician Resident Progress Note
Chief Complaint: The patient is a 73 yo male with MDS and prostate
   cancer along with recently diagnosed AML, admitted for induction of
   newly diagnosed AML now D+23 after 7+3 and transferred to the [**Hospital Unit Name 1**] for
   continued tachypnea and febrile spells also with known perforated
   appendix and phlegmon.
   24 Hour Events:
   -Was able to be weaned off norepinephrine and maintained MAPs  > 60.
   -C diff sent
   -Ordered for methyprednisolone * 2 per Heme/Onc reccs
   -CT showed stable phlegmon and relatively benign lung fields
   -Discussion between Heme and [**Doctor First Name **] regarding indications for surgery and
   ultimately [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] decided not to proceed w/ appendectomy at this time
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2134-12-27**] 02:00 PM
   Vancomycin - [**2134-12-28**] 08:00 PM
   Levofloxacin - [**2134-12-28**] 09:00 PM
   Voriconazole - [**2134-12-29**] 12:08 AM
   Metronidazole - [**2134-12-29**] 04:07 AM
   Acyclovir - [**2134-12-29**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-12-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-29**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 35.6
C (96
   HR: 61 (61 - 97) bpm
   BP: 103/53(71) {99/53(68) - 154/72(101)} mmHg
   RR: 20 (19 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 10 (8 - 12)mmHg
   Total In:
                                                                  6,241 mL
                                                                  1,239 mL
   PO:
   TF:
   IVF:
                                                                  3,303 mL
                                                                    469 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  3,340 mL
                                                                    465 mL
   Urine:
                                                                  3,340 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,901 mL
                                                                    774 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/48/96.[**Numeric Identifier 181**]/26/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   9.6 g/dL
   201 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   34 mg/dL
   115 mEq/L
   148 mEq/L
   28.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2134-12-26**]  05:33 AM
                             [**2134-12-26**]  10:44 PM
                             [**2134-12-27**]  03:32 AM
                             [**2134-12-27**]  11:26 AM
                             [**2134-12-27**]  03:12 PM
                             [**2134-12-27**]  09:42 PM
                             [**2134-12-28**]  03:32 AM
                             [**2134-12-28**]  04:04 AM
                             [**2134-12-29**]  04:39 AM
                             [**2134-12-29**]  04:52 AM
   WBC
   0.2
   0.5
   1.1
   5.0
   Hct
   22.7
   27.5
   29.8
   28.6
   28.3
   Plt
   20
   25
   34
   55
   Cr
   0.8
   0.8
   0.8
   0.6
   TCO2
   31
   34
   30
   32
   28
   Glucose
   124
   170
   119
   201
   Other labs: PT / PTT / INR:13.4/31.6/1.1, ALT / AST:109/107, Alk Phos /
   T Bili:110/1.1, Differential-Neuts:55.0 %, Band:0.0 %, Lymph:22.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:483 mg/dL, Lactic Acid:1.1 mmol/L,
   LDH:764 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   The patient is a 73 yo male with MDS and prostate cancer along with
   recently diagnosed AML, admitted for induction of newly diagnosed AML
   now D+23 after 7+3 and transferred to the [**Hospital Unit Name 1**] for continued tachypnea
   and febrile spells also with known perforated appendix and phlegmon.
   # Acute Respiratory Distress:  Patient had recurrent tachypneic and
   febrile spells on the floor with persistently negative cultures prior
   to transfer to floor.   Yesterday he became increasingly hypoxemic and
   confused despite increased O2 and required intubation.  The cause of
   his hypoxia is still  unclear and CT chest was fairly unremarkable for
   significant pathology.  Patient continues to be on broad spectrum
   antibiotics started while he had neutropenic fever.  Major concern is
   for pneumonia vs. immune reconstitution syndrome.   No longer
   neutropenic by [**2134-12-29**].
   -Continue broad-spectrum antibiotics:  vancomycin, levofloxacin,
   metronidazole, acyclovir, and voriconazole; will consider psudeomonas
   coverage if patient spikes or clinically worsens
   -Continue to monitor clinically, respiratory status stable on vent
   -Attempt to keep fluid balance equal over course of day (unable to
   diurese secondary to hypotension).
   -Methylprednisolone 80 mg IV BID x 2 doses per Heme reccs
   -will attempt to gradually weane off ventilator
   # Sepsis: Etiology of infection unclear. [**Name2 (NI) **] cultures have all
   remained negative, with the exception of a BCx on [**2134-12-26**] from the line
   growing GPC in pairs/clusters.  Unclear whether this represents
   contaminant or true infection.  Patient also has known infection in
   abdomen which appears improved on abdominal CT on [**12-27**].  She is also no
   longer neutropenic as of [**2134-12-29**].
   - f/u culture data and CIS
   - surveillance cultures
   - broad spectrum abx per above
   -F/U surgery  and ID reccs regarding possibility of surgery
   -F/U final read RUQ ultrasound
   # AML: Day 24 7+3 and ANC of 660 today (up from 320 yesterday).  No
   longer neutropenic.
   - Cont monitor and check daily CBC
s and ANC
   - Transfuse per onc team for Hct <25 and Plt <10
   - neutropenic precautions
   - will likely d/c filgrastim because ANC greater than 1000
   #Phlegmon/Perforated appendix: Patient doesn
t appear acutely tender
   but does feel [**Hospital1 2435**] on right side of abdomen.  Abd CT read as stable
   to improved phlegmon.  Surgery does not want to operate now.   [**Month (only) 51**]
   revisit since no longer neutropenic.
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 213**] reccs
   - Continue broad spectrum antibiotics
   # Smoker: On nicotine patch
   #Prostate Cancer: Not on any active management at home.  No new
   management.
   # PPX: Neutropenic precautions, IS to bedside, bowel regimen
   # ACCESS: Left SC CVL
   # CODE: Full code, confirmed with pt and family
   # CONTACT: HCP wife [**Name (NI) 5457**] cell [**Telephone/Fax (1) 5458**], home phone [**Telephone/Fax (1) 5459**].
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2134-12-29**] 02:11 AM 104 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2134-12-26**] 05:12 AM
   18 Gauge - [**2134-12-27**] 03:49 PM
   Arterial Line - [**2134-12-27**] 04:06 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-12-29 10:36:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Methylprednisolone given
   -Pressors weaned to off
   -CT scan final read with stable phlegmon
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2134-12-27**] 02:00 PM
   Levofloxacin - [**2134-12-28**] 09:00 PM
   Voriconazole - [**2134-12-29**] 12:08 AM
   Metronidazole - [**2134-12-29**] 04:07 AM
   Acyclovir - [**2134-12-29**] 06:00 AM
   Vancomycin - [**2134-12-29**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-12-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, low grade
   Flowsheet Data as of  [**2134-12-29**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 35.9
C (96.6
   HR: 66 (60 - 97) bpm
   BP: 111/57(77) {99/53(68) - 136/65(90)} mmHg
   RR: 20 (19 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 11 (8 - 12)mmHg
   Total In:
                                                                  6,241 mL
                                                                  1,856 mL
   PO:
   TF:
   IVF:
                                                                  3,303 mL
                                                                    782 mL
   Blood products:
   Total out:
                                                                  3,340 mL
                                                                    840 mL
   Urine:
                                                                  3,340 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,901 mL
                                                                  1,016 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 13 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/48/96.[**Numeric Identifier 181**]/26/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   55 K/uL
   201 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.3 mEq/L
   34 mg/dL
   115 mEq/L
   148 mEq/L
   28.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2134-12-26**]  05:33 AM
                             [**2134-12-26**]  10:44 PM
                             [**2134-12-27**]  03:32 AM
                             [**2134-12-27**]  11:26 AM
                             [**2134-12-27**]  03:12 PM
                             [**2134-12-27**]  09:42 PM
                             [**2134-12-28**]  03:32 AM
                             [**2134-12-28**]  04:04 AM
                             [**2134-12-29**]  04:39 AM
                             [**2134-12-29**]  04:52 AM
   WBC
   0.2
   0.5
   1.1
   5.0
   Hct
   22.7
   27.5
   29.8
   28.6
   28.3
   Plt
   20
   25
   34
   55
   Cr
   0.8
   0.8
   0.8
   0.6
   TCO2
   31
   34
   30
   32
   28
   Glucose
   124
   170
   119
   201
   Other labs: PT / PTT / INR:13.4/31.6/1.1, ALT / AST:109/107, Alk Phos /
   T Bili:110/1.1, Differential-Neuts:55.0 %, Band:0.0 %, Lymph:22.0 %,
   Mono:9.0 %, Eos:0.0 %, Fibrinogen:483 mg/dL, Lactic Acid:1.1 mmol/L,
   LDH:764 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR-
   L SCL in good position
   ETT in good position
   Poor technique---bilateral LL opacities seen and given limited
   technique difficult to assess for subtle parenchymal changes.
   Microbiology: CMV-Pending
   B-glucan-negative
   BC x1--GPC's in Pairs and chains form [**2134-12-26**] from CVL
   Assessment and Plan
   73 yo male with AML s/p BMT now with sepsis and respiratory failure.
   Concern has been raised for possible intra-abdominal source as
   contributing but have CT scan without signficiant change and actually
   capacity to wean pressors to off through to this morning.  WBC has
   increased to 5.0.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)-
   -Will discuss possible D/C of GCSF
   -Continue steroids
 APPENDICITIS
CT stable and patient clinically improved
   -flagyl/Levoflox/Acyclovir/Vanco
   -Continue to monitor exam
   -Will continue daily evaluations with surgery
   Sepsis
He does have fever elevation and positive blood culture noted on
   lab data returning
is preliminary culture results, however, is of
   concern
is a slow return of positive culture which is provocative.
   Will continue with follow up cultures but has shown clinical
   improvement in the setting of treatment and positive cultures which are
   concerning for contaminant.
   -Continue with vanco/Levoflox/Flagyl
   -Follow up culture results
   -Will discuss with ID role of line change vs. continued follow up of
   cultures and clinical exam
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-Good oxygenation and
   ventilation on current settings.  The significant concern is to allow
   ventilatory support to continue while weaning sedation and control of
   sepsis
   -Decrease RR to 16
   -Decrease FIO2 to 0.4
   -Will decrease sedation and move to PSV when spontaneous RR does
   improve.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2134-12-29**] 02:11 AM 104 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2134-12-26**] 05:12 AM
   18 Gauge - [**2134-12-27**] 03:49 PM
   Arterial Line - [**2134-12-27**] 04:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill

2134-12-30 07:43:00 Physician Resident Progress Note
Chief Complaint: The patient is a 73 yo male with MDS and prostate
   cancer along with recently diagnosed AML, admitted for induction of
   newly diagnosed AML now D+23 after 7+3 and transferred to the [**Hospital Unit Name 1**] for
   continued tachypnea and febrile spells also with known perforated
   appendix and phlegmon.
   24 Hour Events:
   - Pt successfully extubated on a.m. of [**12-29**]. ABG after extubation with
   pure metabolic alkylosis. Thought to be dry
   -speech and swallow eval ordered for am- pt coughed when given fluids
   to drink by nurse
   -Given 1L D5W for Na 149 in the afternoon.
   -ordered D51/2NS +40 KCL at 125cc/hr after pm lytes showed Na of 145, K
   repleted
   - Pt continues to have AMS with orientation x2, diffuse weakness in
   evening. Ordered Head CT, sent U/A, ABG.
   -Re-intubated on a.m. of [**12-30**] for hypercapnic respiratory distress
 PICC LINE - START [**2134-12-29**] 07:45 PM
 MULTI LUMEN - STOP [**2134-12-30**] 03:50 AM
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2134-12-27**] 02:00 PM
   Levofloxacin - [**2134-12-29**] 08:00 PM
   Vancomycin - [**2134-12-29**] 09:00 PM
   Voriconazole - [**2134-12-30**] 02:00 AM
   Metronidazole - [**2134-12-30**] 04:39 AM
   Acyclovir - [**2134-12-30**] 06:28 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-12-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-30**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.7
C (96.3
   HR: 81 (60 - 88) bpm
   BP: 135/68(95) {104/55(74) - 145/78(358)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 13 (10 - 21)mmHg
   Total In:
                                                                  4,764 mL
                                                                  1,574 mL
   PO:
   TF:
   IVF:
                                                                  2,448 mL
                                                                    916 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  1,955 mL
                                                                    820 mL
   Urine:
                                                                  1,955 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,809 mL
                                                                    754 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 667 (629 - 672) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/47/113/30/4
   Ve: 10.6 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : coarse)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   9.8 g/dL
   200 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   30 mg/dL
   110 mEq/L
   143 mEq/L
   28.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2134-12-27**]  11:26 AM
                             [**2134-12-27**]  03:12 PM
                             [**2134-12-27**]  09:42 PM
                             [**2134-12-28**]  03:32 AM
                             [**2134-12-28**]  04:04 AM
                             [**2134-12-29**]  04:39 AM
                             [**2134-12-29**]  04:52 AM
                             [**2134-12-29**]  01:42 PM
                             [**2134-12-30**]  04:52 AM
                             [**2134-12-30**]  05:04 AM
   WBC
   1.1
   5.0
   14.0
   Hct
   28.6
   28.3
   28.7
   Plt
   34
   55
   91
   Cr
   0.8
   0.6
   0.7
   TCO2
   31
   34
   30
   32
   28
   27
   31
   Glucose
   119
   201
   200
   Other labs: PT / PTT / INR:13.4/31.6/1.1, ALT / AST:108/90, Alk Phos /
   T Bili:151/2.0, Differential-Neuts:70.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:7.0 %, Eos:0.0 %, Fibrinogen:483 mg/dL, Lactic Acid:1.1 mmol/L,
   LDH:790 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   The patient is a 73 yo male with MDS and prostate cancer along with
   recently diagnosed AML, admitted for induction of newly diagnosed AML
   now D+23 after 7+3 and transferred to the [**Hospital Unit Name 1**] for continued tachypnea
   and febrile spells also with known perforated appendix and phlegmon.
   # Acute Respiratory Distress:  Patient had recurrent tachypneic and
   febrile spells on the floor with persistently negative cultures prior
   to transfer to floor.   Yesterday he became increasingly hypoxemic and
   confused despite increased O2 and required intubation.  The cause of
   his hypoxia is still  unclear and CT chest was fairly unremarkable for
   significant pathology.  Patient continues to be on broad spectrum
   antibiotics started while he had neutropenic fever.  Major concern is
   for pneumonia vs. immune reconstitution syndrome.   No longer
   neutropenic by [**2134-12-29**].
   -Continue broad-spectrum antibiotics:  vancomycin, levofloxacin,
   metronidazole, acyclovir, and voriconazole; will consider psudeomonas
   coverage if patient spikes or clinically worsens
   -Continue to monitor clinically, respiratory status stable on vent
   -Attempt to keep fluid balance equal over course of day (unable to
   diurese secondary to hypotension).
   -Methylprednisolone 80 mg IV BID x 2 doses per Heme reccs
   -will attempt to gradually weane off ventilator
   # Sepsis: Etiology of infection unclear. [**Name2 (NI) **] cultures have all
   remained negative, with the exception of a BCx on [**2134-12-26**] from the line
   growing GPC in pairs/clusters.  Unclear whether this represents
   contaminant or true infection.  Patient also has known infection in
   abdomen which appears improved on abdominal CT on [**12-27**].  She is also no
   longer neutropenic as of [**2134-12-29**].
   - f/u culture data and CIS
   - surveillance cultures
   - broad spectrum abx per above
   -F/U surgery  and ID reccs regarding possibility of surgery
   -F/U final read RUQ ultrasound
   # AML: Day 24 7+3 and ANC of 660 today (up from 320 yesterday).  No
   longer neutropenic.
   - Cont monitor and check daily CBC
s and ANC
   - Transfuse per onc team for Hct <25 and Plt <10
   - neutropenic precautions
   - will likely d/c filgrastim because ANC greater than 1000
   #Phlegmon/Perforated appendix: Patient doesn
t appear acutely tender
   but does feel [**Hospital1 2435**] on right side of abdomen.  Abd CT read as stable
   to improved phlegmon.  Surgery does not want to operate now.   [**Month (only) 51**]
   revisit since no longer neutropenic.
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 213**] reccs
   - Continue broad spectrum antibiotics
   # Smoker: On nicotine patch
   #Prostate Cancer: Not on any active management at home.  No new
   management.
   # PPX: Neutropenic precautions, IS to bedside, bowel regimen
   # ACCESS: Left SC CVL
   # CODE: Full code, confirmed with pt and family
   # CONTACT: HCP wife [**Name (NI) 5457**] cell [**Telephone/Fax (1) 5458**], home phone [**Telephone/Fax (1) 5459**].
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2134-12-29**] 04:58 PM 86 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2134-12-27**] 03:49 PM
   Arterial Line - [**2134-12-27**] 04:06 PM
   PICC Line - [**2134-12-29**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-12-30 10:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2134-12-29**] 07:45 PM
 MULTI LUMEN - STOP [**2134-12-30**] 03:50 AM
   Patient with PSV well tolerated
   Blood pressures stable
   CVL discontinued
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Meropenem - [**2134-12-27**] 02:00 PM
   Levofloxacin - [**2134-12-29**] 08:00 PM
   Voriconazole - [**2134-12-30**] 02:00 AM
   Metronidazole - [**2134-12-30**] 04:39 AM
   Acyclovir - [**2134-12-30**] 06:28 AM
   Vancomycin - [**2134-12-30**] 08:15 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2134-12-30**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 89 (63 - 95) bpm
   BP: 127/64(88) {104/55(74) - 145/78(358)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 13 (10 - 21)mmHg
   Total In:
                                                                  4,764 mL
                                                                  2,271 mL
   PO:
   TF:
   IVF:
                                                                  2,448 mL
                                                                  1,380 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                  1,350 mL
   Urine:
                                                                  1,955 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,809 mL
                                                                    921 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 590 (590 - 672) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 14 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/47/113/30/4
   Ve: 12.7 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   91 K/uL
   200 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.0 mEq/L
   30 mg/dL
   110 mEq/L
   143 mEq/L
   28.7 %
   14.0 K/uL
        [image002.jpg]
                             [**2134-12-27**]  11:26 AM
                             [**2134-12-27**]  03:12 PM
                             [**2134-12-27**]  09:42 PM
                             [**2134-12-28**]  03:32 AM
                             [**2134-12-28**]  04:04 AM
                             [**2134-12-29**]  04:39 AM
                             [**2134-12-29**]  04:52 AM
                             [**2134-12-29**]  01:42 PM
                             [**2134-12-30**]  04:52 AM
                             [**2134-12-30**]  05:04 AM
   WBC
   1.1
   5.0
   14.0
   Hct
   28.6
   28.3
   28.7
   Plt
   34
   55
   91
   Cr
   0.8
   0.6
   0.7
   TCO2
   31
   34
   30
   32
   28
   27
   31
   Glucose
   119
   201
   200
   Other labs: PT / PTT / INR:13.4/31.6/1.1, ALT / AST:108/90, Alk Phos /
   T Bili:151/2.0, Differential-Neuts:70.0 %, Band:5.0 %, Lymph:7.0 %,
   Mono:7.0 %, Eos:0.0 %, Fibrinogen:483 mg/dL, Lactic Acid:1.1 mmol/L,
   LDH:790 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Imaging: ETT at 5cm.  Mild increase in bilateral lower lobe opacities
   but is confounded by CXR technique--unlikely
   Microbiology: GPC's in blood culture
   Assessment and Plan
   73 yo male s/p BMT now with ICU admission characterized by sepsis with
   concern for intra-abdominal source with appendix peforation and
   contained in plegmon.  With supportive care and ABX--patient has had
   continued improvement with pressors weaned to off and ventilator
   settings at a minimum well tolerated.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)-
   -GCSF off
   -Methylprednisolone off
   -Continued management in conjunction with BMT attending
   -Will discuss antibiotic choices with BMT attending
 APPENDICITIS/SEPSIS-
   -Good clinical improvement
   -Will continue with medical management
   -Continue with -Vanco/Vori/Acyclovir/Levoflox/Flagyl
   -Fungal evaluations negative to date
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   -Minimal Sedation
   -Moderate secretions continuing and will move to negative fluid balance
   as possible
   -He has, otherwise favorable predictors for successful extubation
   -Will look for decreased secretion volume prior to extubation
   -Diuresis to be attempted today if respiratory status worsening
   -SBT 5/0 for 30 minutes to evaluate for possible compromise from return
   of pulmonary edema
   LFT Abnormalities-
   - Antibiotics as potential source
   -RUQ U/S unrevealing in past
   -Will trend further and look to D/C Voriconazole if reasonable
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2134-12-29**] 04:58 PM 86 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2134-12-27**] 03:49 PM
   Arterial Line - [**2134-12-27**] 04:06 PM
   PICC Line - [**2134-12-29**] 07:45 PM
   Prophylaxis:
   DVT: Boot
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2134-12-31 07:18:00 Physician Resident Progress Note
Chief Complaint: Respiratory Distress
   24 Hour Events:
 EKG - At [**2134-12-31**] 12:30 AM
   done for hypertension
   -Received PS in morning and had favorable RSBI but had no air leak
   around cuff so not extubated b/c of concern for laryngeal edema
   -started on solumedrol 80 mg IV Q8H x 3 doses for empiric tx of airway
   edema
   -sputum cx sent on copious secretions in a.m. after clearing of a large
   mucous plug during attempted weaning off vent
   -Voriconazole d/c'd because of concern about elevated LFTs
   -ID reccs -> cont current mgmnt plans, check vanc trough (ordered)
   -Heme onc reccs -> cont current mgmnt, OK w/ d/c of voriconazole and OK
   to d/c any other antibiotics we would like to stop but asked us to
   continue acyclovir.  BM bx was hypocellular and basically he'll need
   another BM bx at some time point in the future now that his counts are
   rising to assess for remission.  Nothing else to do right now.
   -[**Doctor First Name 213**] left note reiterating that they didn't think appx was source of
   infxn
   -Kept on PS overnight at 8/5 (not put back on AC)
   Patient unable to provide history: intubation
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Voriconazole - [**2134-12-30**] 02:39 PM
   Vancomycin - [**2134-12-30**] 07:55 PM
   Levofloxacin - [**2134-12-30**] 09:00 PM
   Metronidazole - [**2134-12-31**] 03:44 AM
   Acyclovir - [**2134-12-31**] 05:52 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2134-12-30**] 10:50 AM
   Midazolam (Versed) - [**2134-12-30**] 10:33 PM
   Fentanyl - [**2134-12-30**] 10:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-31**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 61 (58 - 98) bpm
   BP: 135/66(93) {123/59(88) - 182/158(164)} mmHg
   RR: 16 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  5,458 mL
                                                                  1,065 mL
   PO:
             TF:
   IVF:
                                                                  3,327 mL
                                                                    441 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  5,800 mL
                                                                    830 mL
   Urine:
                                                                  5,800 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -342 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 568 (435 - 625) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.43/50/102/34/7
   Ve: 12.9 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present, Tender: right upper
   quadrant, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   122 K/uL
   10.7 g/dL
   194 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.5 mEq/L
   30 mg/dL
   105 mEq/L
   140 mEq/L
   32.3 %
   20.8 K/uL
        [image002.jpg]
                             [**2134-12-28**]  04:04 AM
                             [**2134-12-29**]  04:39 AM
                             [**2134-12-29**]  04:52 AM
                             [**2134-12-29**]  01:42 PM
                             [**2134-12-30**]  04:52 AM
                             [**2134-12-30**]  05:04 AM
                             [**2134-12-30**]  11:15 AM
                             [**2134-12-30**]  09:18 PM
                             [**2134-12-31**]  06:04 AM
                             [**2134-12-31**]  06:18 AM
   WBC
   5.0
   14.0
   20.8
   Hct
   28.3
   28.7
   32.3
   Plt
   55
   91
   122
   Cr
   0.6
   0.7
   0.6
   TCO2
   32
   28
   27
   31
   31
   33
   34
   Glucose
   [**Telephone/Fax (3) 5585**]
   Other labs: PT / PTT / INR:13.4/31.6/1.1, ALT / AST:142(108)  /112
   (90), Alk Phos / T Bili:206 (151) /2.1 (2), Differential-Neuts:70.0 %,
   Band:5.0 %, Lymph:7.0 %, Mono:7.0 %, Eos:0.0 %, Fibrinogen:483 mg/dL,
   Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:775 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Microbiology: One of two [**Telephone/Fax (3) 573**] culture bottles from [**12-26**] positive for
   coag negative staph
   Assessment and Plan
   The patient is a 73 yo male with MDS and prostate cancer along with
   recently diagnosed AML, admitted for induction of newly diagnosed AML
   now D+24 after 7+3 and transferred to the [**Hospital Unit Name 1**] for continued tachypnea
   and febrile spells also with known perforated appendix and phlegmon.
   # Acute Respiratory Distress:  Patient had recurrent tachypneic and
   febrile spells on the floor with persistently negative cultures prior
   to transfer to floor.   Yesterday he became increasingly hypoxemic and
   confused despite increased O2 and required intubation.  The cause of
   his hypoxia is still  unclear and CT chest was fairly unremarkable for
   significant pathology.  Patient continues to be on broad spectrum
   antibiotics started while he had neutropenic fever.  Major concern is
   for pneumonia vs. immune reconstitution syndrome.   No longer
   neutropenic as of [**2134-12-29**].
   -Continue broad-spectrum antibiotics:  vancomycin, levofloxacin,
   metronidazole, acyclovir; consider d/c voriconazole because of elevated
   LFTs
   -Will consider psudeomonas coverage if patient spikes or clinically
   worsens
   -Tolerating pressure support; will attempt to weane off ventilator
   today
   -S/p methylprednisolone 80 mg IV BID x 2 doses per Heme reccs
   # Sepsis: Etiology of infection unclear. [**Name2 (NI) **] cultures have all
   remained negative, with the exception of a BCx on [**2134-12-26**] from the line
   growing GPC in pairs/clusters.  Unclear whether this represents
   contaminant or true infection.  Patient also has known infection in
   abdomen which appears improved on abdominal CT on [**12-27**].  She is also no
   longer neutropenic as of [**2134-12-29**].
   - f/u culture data and CIS; had GPC in pairs and clusters on [**2133-12-25**]
   [**Date Range 573**] cx but no other [**Date Range 573**] cx
s positive
   - surveillance cultures
   - broad spectrum abx per above
   -F/U surgery  and ID reccs regarding possibility of surgery
   # AML: Day 25 of 7+3 and ANC now in normal range.  No longer
   neutropenic as of [**2134-12-29**].
   - Cont monitor and check daily CBC
   - Transfuse per onc team for Hct <25 and Plt <10
   - no longer on filgrastim because ANC greater than 1000
   # Elevated LFTs:  [**Month (only) 51**] be secondary to drug toxicity (most likely)
   versus acalculous chlolecystitis versus infectious process.  Will d/c
   vericonazole and continue to trend.
   #Phlegmon/Perforated appendix: Patient doesn
t appear acutely tender
   but does feel [**Hospital1 2435**] on right side of abdomen.  Abd CT read as stable
   to improved phlegmon.  Surgery does not want to operate now.   [**Month (only) 51**]
   revisit since no longer neutropenic.
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 213**] reccs
   - Continue broad spectrum antibiotics
   # Smoker: On nicotine patch
   # Prostate Cancer: Not on any active management at home.  No new
   management.
   # PPX: Neutropenic precautions, IS to bedside, bowel regimen
   # ACCESS: Left SC CVL
   # CODE: Full code, confirmed with pt and family
   # CONTACT: HCP wife [**Name (NI) 5457**] cell [**Telephone/Fax (1) 5458**], home phone [**Telephone/Fax (1) 5459**].
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 APPENDICITIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2134-12-30**] 04:11 PM 87.[**Telephone/Fax (3) 3591**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2134-12-27**] 03:49 PM
   Arterial Line - [**2134-12-27**] 04:06 PM
   PICC Line - [**2134-12-29**] 07:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-12-31 11:26:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2134-12-31**] 12:30 AM
   done for hypertension
   Patient with large cuff leak today
   Patient with good fluid balance
   Patient with excellent tolerance of PSV 5/5
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Voriconazole - [**2134-12-30**] 02:39 PM
   Levofloxacin - [**2134-12-30**] 09:00 PM
   Metronidazole - [**2134-12-31**] 03:44 AM
   Acyclovir - [**2134-12-31**] 05:52 AM
   Vancomycin - [**2134-12-31**] 08:14 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2134-12-30**] 10:33 PM
   Fentanyl - [**2134-12-30**] 10:33 PM
   Furosemide (Lasix) - [**2134-12-31**] 09:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: No(t) Tachypnea
   Flowsheet Data as of  [**2134-12-31**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 78 (58 - 98) bpm
   BP: 164/84(103) {164/84(103) - 166/88(108)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  5,458 mL
                                                                  1,725 mL
   PO:
             TF:
   IVF:
                                                                  3,327 mL
                                                                    747 mL
   Blood products:
   Total out:
                                                                  5,800 mL
                                                                  2,110 mL
   Urine:
                                                                  5,800 mL
                                                                  2,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -342 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 558 (558 - 625) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.43/50/102/34/7
   Ve: 9.7 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   122 K/uL
   194 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.5 mEq/L
   30 mg/dL
   105 mEq/L
   140 mEq/L
   32.3 %
   20.8 K/uL
        [image002.jpg]
                             [**2134-12-28**]  04:04 AM
                             [**2134-12-29**]  04:39 AM
                             [**2134-12-29**]  04:52 AM
                             [**2134-12-29**]  01:42 PM
                             [**2134-12-30**]  04:52 AM
                             [**2134-12-30**]  05:04 AM
                             [**2134-12-30**]  11:15 AM
                             [**2134-12-30**]  09:18 PM
                             [**2134-12-31**]  06:04 AM
                             [**2134-12-31**]  06:18 AM
   WBC
   5.0
   14.0
   20.8
   Hct
   28.3
   28.7
   32.3
   Plt
   55
   91
   122
   Cr
   0.6
   0.7
   0.6
   TCO2
   32
   28
   27
   31
   31
   33
   34
   Glucose
   [**Telephone/Fax (3) 5585**]
   Other labs: PT / PTT / INR:13.4/31.6/1.1, ALT / AST:142/112, Alk Phos /
   T Bili:206/2.1, Differential-Neuts:70.0 %, Band:4.0 %, Lymph:3.0 %,
   Mono:6.0 %, Eos:0.0 %, Fibrinogen:483 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:775 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.2
   mg/dL
   Imaging: CXR--Persistent excellent maintenancy of airspace patency.
   Partial LLL collapse with opacity
   Assessment and Plan
   73 yo male with improved respiratory status and able to maintain
   ventilation and oxygenation on minimal ventilatory settings this
   morning.  The issue of upper airway obstruction with absence of cuff
   leak does seem to be substantially improved through to this morning.
   He has signficiant elevation in WBC count this morning but that is in
   the setting of steroid Rx and likely represents demargination.
   Fentanyl/Versed off, Lasix x1, Secreations decresed through to this
   morning.
   RESPIRATORY FAILURE-
   -Possible PNA and may well be a component of non-cardiogenic edema
   leading to presistent respiratory failure
   -He has excellent tolerance of minimal ventilator settings
   -Cuff leak clearly heard
   -Secretions decreased in volume
   -Mental status excellent
   -Motor strength perserved

 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   -Neutropenia resolved
   -Will need repeat BM Bx in future
 APPENDICITIS-Will continue with broad specturm ABX
   -Daily exams
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)-
   -Acyclovir/Vanco/Flagyl/Levofloxacin
   -Will have to follow cultures and will need Vanco/Levo/Flagyl for
   prolonged course
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2134-12-30**] 04:11 PM 87.[**Telephone/Fax (3) 3591**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2134-12-27**] 03:49 PM
   PICC Line - [**2134-12-29**] 07:45 PM
   Prophylaxis:
   DVT: Hep SQ to be added
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2135-01-01 08:12:00 Physician Resident Progress Note
Chief Complaint: Tachypnea, hypoxia
   24 Hour Events:
 ARTERIAL LINE - STOP [**2134-12-31**] 10:00 AM
 INVASIVE VENTILATION - STOP [**2134-12-31**] 11:30 AM
 EKG - At [**2134-12-31**] 04:12 PM
 URINE CULTURE - At [**2134-12-31**] 09:33 PM
 BLOOD CULTURED - At [**2134-12-31**] 09:45 PM
   -Had shortness of breath post extubation but ABG stable, EKG unchanged,
   and CE
s (-).  This resolved and patient had nausea responsive to
   lorazepam and ondansetron.
   -As patient looked ill cultures were sent but he was never febrile.
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Voriconazole - [**2134-12-30**] 02:39 PM
   Vancomycin - [**2134-12-31**] 09:33 PM
   Levofloxacin - [**2134-12-31**] 11:13 PM
   Metronidazole - [**2135-1-1**] 04:02 AM
   Acyclovir - [**2135-1-1**] 05:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-12-31**] 09:27 AM
   Pantoprazole (Protonix) - [**2134-12-31**] 08:35 PM
   Heparin Sodium (Prophylaxis) - [**2135-1-1**] 04:01 AM
   Lorazepam (Ativan) - [**2135-1-1**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2135-1-1**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.5
   HR: 93 (63 - 100) bpm
   BP: 115/66(76) {106/66(76) - 165/97(120)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,675 mL
                                                                  1,080 mL
   PO:
             TF:
   IVF:
                                                                  1,584 mL
                                                                    381 mL
   Blood products:
   Total out:
                                                                  3,975 mL
                                                                    910 mL
   Urine:
                                                                  3,975 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 4L
   SpO2: 96%
   ABG: 7.48/45/98.[**Numeric Identifier 176**]/24/8
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, situation, Movement: Not
   assessed, Tone: Normal
   Labs / Radiology
   144 K/uL
   10.7 g/dL
   111 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.8 mEq/L
   31 mg/dL
   106 mEq/L
   135 mEq/L
   31.8 %
   29.1 K/uL
        [image002.jpg]
                             [**2134-12-29**]  01:42 PM
                             [**2134-12-30**]  04:52 AM
                             [**2134-12-30**]  05:04 AM
                             [**2134-12-30**]  11:15 AM
                             [**2134-12-30**]  09:18 PM
                             [**2134-12-31**]  06:04 AM
                             [**2134-12-31**]  06:18 AM
                             [**2134-12-31**]  02:02 PM
                             [**2134-12-31**]  04:14 PM
                             [**2135-1-1**]  04:13 AM
   WBC
   14.0
   20.8
   29.1
   Hct
   28.7
   32.3
   31.8
   Plt
   91
   122
   144
   Cr
   0.7
   0.6
   0.7
   TropT
   <0.01
   TCO2
   27
   31
   31
   33
   34
   34
   Glucose
   200
   194
   111
   Other labs: PT / PTT / INR:12.6/28.1/1.0, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:222(142)/197(112), Alk Phos / T
   Bili:265 (206)/2.4 (2.1), Differential-Neuts:55.0 %, Band:13.0 %,
   Lymph:1.0 %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:483 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:1571 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Microbiology: CXR from [**2134-12-31**]:
   Persistent small left basilar atelectasis and effusion. Resolution of
   atelectasis at the right lung base.
   C dificile toxin (-) *2.
   ECG: From [**2134-12-31**]: Unchanged from baseline.  Sinus rhythm.
   Assessment and Plan
   The patient is a 73 yo male with MDS and prostate cancer along with
   recently diagnosed AML, admitted for induction of newly diagnosed AML
   now D+24 after 7+3 and transferred to the [**Hospital Unit Name 1**] for continued tachypnea
   and febrile spells also with known perforated appendix and phlegmon.
    # Respiratory Distress: The patient continues to be well oxygenated
   and well ventilated on pressure support.  He has a cuff leak this AM.
   Therefore, we will proceed to extubate him this morning.
   -Extubate
   -Recheck ABG approximately one hour after extubation
   # Hypotension: The patient was hypotensive during his neutropenia and
   there was concern for sepsis/bacteremia thought blood cultures have
   remained negative with the exception of a BCx on [**2134-12-26**] from the line
   growing GPC in pairs/clusters.  Unclear whether this represents
   contaminant or true infection.  Patient also has known infection in
   abdomen which appears improved on abdominal CT on [**12-27**].  He is also no
   longer neutropenic as of [**2134-12-29**].
   - f/u culture data and CIS; had GPC in pairs and clusters on [**2133-12-25**]
   blood cx but no other blood cx
s positive
   - surveillance cultures
   - Levofloxacin, vancomycin, metronidazole for abdominal infection and ?
   pneumonia, we will continue these for 7 days pos resolution of
   neutropenia (through [**2135-1-5**])
   -F/U surgery  reccs
   # AML: Day 27 of 7+3 and ANC now in normal range.  No longer
   neutropenic as of [**2134-12-29**].
   - Continue to monitor and check daily CBC
   - Transfuse per onc team for Hct <25 and Plt <10
   - no longer on filgrastim because ANC greater than 1000
    # Elevated LFTs:  [**Month (only) 51**] be secondary to drug toxicity (most likely)
   versus acalculous chlolecystitis versus infectious process.   Previous
   ultrasound without pericholeycystic fluid so low index of suspicion for
   choleycystitis.
    #Phlegmon/Perforated appendix: Patient doesn
t appear acutely tender
   but does feel [**Hospital1 2435**] on right side of abdomen.  Abd CT read as stable
   to improved phlegmon.  Surgery does not want to operate now.
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 213**] reccs
   - Continue broad spectrum antibiotics
   # Smoker: On nicotine patch
   # Prostate Cancer: Not on any active management at home.  No new
   management.
   # PPX: , IS to bedside, bowel regimen
   # ACCESS: right sided PICC, PIV
   # CODE: Full code, confirmed with pt and family
   # CONTACT: HCP wife [**Name (NI) 5457**] cell [**Telephone/Fax (1) 5458**], home phone [**Telephone/Fax (1) 5459**].
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 NAUSEA / VOMITING
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 APPENDICITIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2134-12-31**] 04:07 PM 86.[**Telephone/Fax (5) 4468**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2134-12-29**] 07:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2135-01-01 10:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2134-12-31**] 10:00 AM
 INVASIVE VENTILATION - STOP [**2134-12-31**] 11:30 AM
 EKG - At [**2134-12-31**] 04:12 PM
 URINE CULTURE - At [**2134-12-31**] 09:33 PM
 BLOOD CULTURED - At [**2134-12-31**] 09:45 PM
   Patient with continued stability of saturations following extubation.
   Nausea and malaise investigated with ECG and reassuring
   Wean to nasal cannula
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Voriconazole - [**2134-12-30**] 02:39 PM
   Levofloxacin - [**2134-12-31**] 11:13 PM
   Metronidazole - [**2135-1-1**] 04:02 AM
   Acyclovir - [**2135-1-1**] 05:45 AM
   Vancomycin - [**2135-1-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2135-1-1**] 04:01 AM
   Lorazepam (Ativan) - [**2135-1-1**] 05:45 AM
   Pantoprazole (Protonix) - [**2135-1-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2135-1-1**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.5
   HR: 92 (73 - 100) bpm
   BP: 132/76(91) {106/66(76) - 165/97(120)} mmHg
   RR: 27 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,675 mL
                                                                  1,509 mL
   PO:
             TF:
   IVF:
                                                                  1,584 mL
                                                                    658 mL
   Blood products:
   Total out:
                                                                  3,975 mL
                                                                  1,260 mL
   Urine:
                                                                  3,975 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.48/45/98.[**Numeric Identifier 176**]/24/8
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
Rare crackles at bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   144 K/uL
   111 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.8 mEq/L
   31 mg/dL
   106 mEq/L
   135 mEq/L
   31.8 %
   29.1 K/uL
        [image002.jpg]
                             [**2134-12-29**]  01:42 PM
                             [**2134-12-30**]  04:52 AM
                             [**2134-12-30**]  05:04 AM
                             [**2134-12-30**]  11:15 AM
                             [**2134-12-30**]  09:18 PM
                             [**2134-12-31**]  06:04 AM
                             [**2134-12-31**]  06:18 AM
                             [**2134-12-31**]  02:02 PM
                             [**2134-12-31**]  04:14 PM
                             [**2135-1-1**]  04:13 AM
   WBC
   14.0
   20.8
   29.1
   Hct
   28.7
   32.3
   31.8
   Plt
   91
   122
   144
   Cr
   0.7
   0.6
   0.7
   TropT
   <0.01
   TCO2
   27
   31
   31
   33
   34
   34
   Glucose
   200
   194
   111
   Other labs: PT / PTT / INR:12.6/28.1/1.0, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:222/197, Alk Phos / T Bili:265/2.4,
   Differential-Neuts:55.0 %, Band:13.0 %, Lymph:1.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:483 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.4
   g/dL, LDH:1571 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR--Much improved left lung aeration with diaphragm descent
   from yesterday to today.  No change in right sided infiltrate.  PICC in
   good position.
   Assessment and Plan
   73 yo male with recent induction Rx for AML and admit to ICU with
   respiratory failure and sepsis.  He has had good capacity to maintain
   stable oxygenation and ventilation off of mechanical ventilation.  He
   does, however, have persistent leukocytosis and rising LFT's.  His
   course has been compromised by phlegmon and appendicitis with
   associated sepsis and respiratory failure
   1_Respiratory Failure-patient with successful extubation
he has
   continued stability of oxygenation and maintains some mild tachypnea
   but with alkalemia
   -Continue with incentive spirometer
   -OOB to chair
   -Continue with O2 at 2-4 lpm
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 NAUSEA / VOMITING
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)-
   -Smear today
   -D #28, neutropenia resolved
 APPENDICITIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
He has
   continued stabilyt of BP, he has local findings of abnormal LFT
s but
   RUQ U/s in past unrevealing.  In this setting certainly Leukemoid
   reaction or AML recurrence is possible but unlikely.
   -RUQ U/S this morning
   -Follow abdominal exam
   -Vanco/Falgyl/Acyclovir/Levoflox
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2134-12-31**] 04:07 PM 86.[**Telephone/Fax (5) 4468**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2134-12-29**] 07:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45

2135-01-02 08:09:00 Physician Resident Progress Note
Chief Complaint: febrile neutropenia with appendicitis.
   24 Hour Events:
 STOOL CULTURE - At [**2135-1-1**] 12:27 PM
 CALLED OUT
   - am c/o likely on Sunday [**1-2**]
   -NGT placed in afternoon for PO contrast and then removed. Pt may have
   aspirated during placement.
   - CT abd : 1. Improved appearance of appendicitis with contrast seen
   within the appendix. No evidence of free air or abscess collection.
   2. Bilateral pleural effusions, stable in appearance.
   3. Unchanged appearance of infrarenal abdominal aortic aneurysms with
   penetrating atherosclerotic ulcers. No evidence of active leakage or
   expansion.
   - C diff sent, no new culture data.
   -got OOB and using incentive spirometry well
   -Some concern over ? ams. D/c'd oxycodone and cyclobenzoprine although
   pt wasn't using these. Did keep Ativan as this is helping his nausea.
   -Thick and thin blood smears ordered.
   -TPN continued
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Voriconazole - [**2134-12-30**] 02:39 PM
   Acyclovir - [**2135-1-1**] 02:00 PM
   Vancomycin - [**2135-1-1**] 09:00 PM
   Levofloxacin - [**2135-1-1**] 10:00 PM
   Metronidazole - [**2135-1-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2135-1-1**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2135-1-2**] 04:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: c/o poor sleep o/n, diffuse abd sensitivity
   Flowsheet Data as of  [**2135-1-2**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.5
C (95.9
   HR: 102 (80 - 108) bpm
   BP: 143/82(96) {125/61(77) - 148/105(113)} mmHg
   RR: 18 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  4,436 mL
                                                                    880 mL
   PO:
             TF:
   IVF:
                                                                  1,450 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                  1,500 mL
   Urine:
                                                                  4,010 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    426 mL
                                                                   -620 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin, Anxious
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   150 K/uL
   11.0 g/dL
   119 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   27 mg/dL
   101 mEq/L
   135 mEq/L
   33.2 %
   30.7 K/uL
        [image002.jpg]
                             [**2134-12-30**]  04:52 AM
                             [**2134-12-30**]  05:04 AM
                             [**2134-12-30**]  11:15 AM
                             [**2134-12-30**]  09:18 PM
                             [**2134-12-31**]  06:04 AM
                             [**2134-12-31**]  06:18 AM
                             [**2134-12-31**]  02:02 PM
                             [**2134-12-31**]  04:14 PM
                             [**2135-1-1**]  04:13 AM
                             [**2135-1-2**]  04:35 AM
   WBC
   14.0
   20.8
   29.1
   30.7
   Hct
   28.7
   32.3
   31.8
   33.2
   Plt
   91
   122
   144
   150
   Cr
   0.7
   0.6
   0.7
   0.6
   TropT
   <0.01
   TCO2
   31
   31
   33
   34
   34
   Glucose
   200
   194
   111
   119
   Other labs: PT / PTT / INR:12.6/28.1/1.0, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:265/151, Alk Phos / T Bili:258/2.2,
   Differential-Neuts:62.0 %, Band:8.0 %, Lymph:3.0 %, Mono:9.0 %, Eos:0.0
   %, Fibrinogen:483 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL,
   LDH:629 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 NAUSEA / VOMITING
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 APPENDICITIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   The patient is a 73 yo male with MDS and prostate cancer along with
   recently diagnosed AML, admitted for induction of newly diagnosed AML
   now D+24 after 7+3 and transferred to the [**Hospital Unit Name 1**] for continued tachypnea
   and febrile spells also with known perforated appendix and phlegmon.
    # Respiratory Distress: The patient has been intermittently tachypneic
   since extubation but does not appear labored and denies pain.  Most
   likely a large part of his perceived difficulty is simply fatigue and
   weakness resulting from his long illness.  Overnight he c/o SOB while
   sating 98-100% on NC which resolved with Ativan x1
   -continue to monitor, ABG PRN
   -supplementary O2 PRN
   -completing seven days of antibiotic therapy for pneumonia since end of
   neutropenia (through [**2135-1-5**])
   #Perforated appendix/Phlegmon: Patient has had diffuse symptoms but
   most seem centered around abdomen where there is known abscess.  Abd CT
   [**1-1**] with improved appendicitis, no abscess or other source of infxn.
   -f/u  surgery recs
   -Continue levofloxacin/metronidazole/ vanco
   # Hypotension: The patient
s hypotension has resolved and despite
   appearing unwell he is not febrile at this time.
   -F/U culture data
   - antibiotics per above
   -F/U surgery  reccs
   # AML: Day 27 of 7+3 and ANC now in normal range.  No longer
   neutropenic as of [**2134-12-29**].
   - Continue to monitor and check daily CBC
   - Transfuse per onc team for Hct <25 and Plt <10
   - no longer on filgrastim because ANC greater than 1000
    # Elevated LFTs:  [**Month (only) 51**] be secondary to drug toxicity versus acalculous
   chlolecystitis versus infectious process.   Previous ultrasound without
   pericholeycystic fluid so low index of suspicion for choleycystitis.
   CT [**1-1**] without evidence of biliary dilation or other infxn.
    # Smoker: On nicotine patch
   # Prostate Cancer: Not on any active management at home.  No new
   management.
   # PPX: , IS to bedside, bowel regimen
   # ACCESS: right sided PICC, PIV
   # CODE: Full code, confirmed with pt and family
   # CONTACT: HCP wife [**Name (NI) 5457**] cell [**Telephone/Fax (1) 5458**], home phone [**Telephone/Fax (1) 5459**].
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2135-1-1**] 04:03 PM 86.[**Telephone/Fax (5) 4468**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2134-12-29**] 07:45 PM
   20 Gauge - [**2135-1-1**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:transfer to BMT service

2135-01-02 09:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2135-1-1**] 12:27 PM
 CALLED OUT
   -CT scan with improved phlegmon yesterday
   -Patient with intermittent anxiety over past night with no change in VS
   and improved with Ativan
   -WBC increased modestly further to 30
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Rash;
   Tetracyclines
   Rash;
   Atrovent (Inhalation) (Ipratropium Bromide)
   Hives;
   Last dose of Antibiotics:
   Voriconazole - [**2134-12-30**] 02:39 PM
   Acyclovir - [**2135-1-1**] 02:00 PM
   Levofloxacin - [**2135-1-1**] 10:00 PM
   Metronidazole - [**2135-1-2**] 04:00 AM
   Vancomycin - [**2135-1-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2135-1-1**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2135-1-2**] 04:00 AM
   Pantoprazole (Protonix) - [**2135-1-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-2**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.5
C (95.9
   HR: 99 (80 - 108) bpm
   BP: 122/85(92) {122/61(77) - 148/105(113)} mmHg
   RR: 26 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,436 mL
                                                                  1,240 mL
   PO:
             TF:
   IVF:
                                                                  1,450 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                  1,850 mL
   Urine:
                                                                  4,010 mL
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    426 mL
                                                                   -610 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   150 K/uL
   119 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   27 mg/dL
   101 mEq/L
   135 mEq/L
   33.2 %
   30.7 K/uL
        [image002.jpg]
                             [**2134-12-30**]  04:52 AM
                             [**2134-12-30**]  05:04 AM
                             [**2134-12-30**]  11:15 AM
                             [**2134-12-30**]  09:18 PM
                             [**2134-12-31**]  06:04 AM
                             [**2134-12-31**]  06:18 AM
                             [**2134-12-31**]  02:02 PM
                             [**2134-12-31**]  04:14 PM
                             [**2135-1-1**]  04:13 AM
                             [**2135-1-2**]  04:35 AM
   WBC
   14.0
   20.8
   29.1
   30.7
   Hct
   28.7
   32.3
   31.8
   33.2
   Plt
   91
   122
   144
   150
   Cr
   0.7
   0.6
   0.7
   0.6
   TropT
   <0.01
   TCO2
   31
   31
   33
   34
   34
   Glucose
   200
   194
   111
   119
   Other labs: PT / PTT / INR:12.6/28.1/1.0, CK / CKMB /
   Troponin-T:47/2/<0.01, ALT / AST:265/151, Alk Phos / T Bili:258/2.2,
   Differential-Neuts:62.0 %, Band:8.0 %, Lymph:3.0 %, Mono:9.0 %, Eos:0.0
   %, Fibrinogen:483 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL,
   LDH:629 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR--Right PICC to SCV
   Assessment and Plan
   73 yo male with prolonged course of sepsis and respiratory failure now
   with extubation and stable CT scan showing improved/localized
   phlegmon.  This is in the setting of persistent improvement in
   hemodynamics and respiratory status.  The CT scan has shown persistent
   stability of intra-abdominal collection and no new focal collections
   evolving.
   Sepsis-
   -Vanco/Acyclovir/Levoflox/Flagyl
   -Follow up culture results
   Appendiceal Rupture/Phlegmon-
   -Improved on CT scan
   -Continue to follow exam
   Respiratory Failure-
   -Much improved today.  His symptoms subjectively have been independent
   of any significant change in his physiology
   -Will need to continue incentive spirometry, OOB to chair
   Transaminitis-
   -No insult on CT scan
   -Not improved with voriconazole D/C
   -Will continue to follow
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 NAUSEA / VOMITING
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 APPENDICITIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2135-1-1**] 04:03 PM 86.[**Telephone/Fax (5) 4468**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2134-12-29**] 07:45 PM
   20 Gauge - [**2135-1-1**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 33 minutes